US08975282B2
Step 4) N-(4-((2-aminopyridin-4-yl)oxy)-3-fluorophenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a solution of 4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)picolinamide (2.5 g, 6.0 mmol) in EtOAc/MeCN/H2O (60 mL/60 mL/30 mL) was added iodobenzene diacetate (2.9 g, 9.0 mmol) at 0° C. The reaction was stirred at rt for 2 hours, then concentrated in vacuo. The resulted residue was dissolved with EtOAc (150 mL), washed with saturated aq. NaHCO3 (80 mL), dried over anhydrous Na2SO4, and concentrated in vacuo. The residue was washed with DCM/ether (1/10, 22 mL) to give the title compound as a yellow solid (2.09 g, 81% yield).

reactant | 4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)picolinamide | 6.0 mmol, 2.5 g | CN1N(C(C(=C1C)C(=O)NC1=CC(=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F)=O)C1=CC=CC=C1 | C24H20FN5O4
reactant | iodobenzene diacetate | 9.0 mmol, 2.9 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | EtOAc MeCN H2O | 60 mL | CCOC(=O)C.CC#N.O
product | N-(4-((2-aminopyridin-4-yl)oxy)-3-fluorophenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 2.09 g, 81% yield | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F | C23H20FN5O3
